US06124323
From a mixture of 4-(4-methylbenzyl)piperidine (1.96 g, 30.36 mmol), 2-(4-benzyloxy-3-nitrophenoxy)ethyl bromide (1.825 g, 5.18 mmol) and KI (100 mg) in toluene (50 mL) was obtained 1.965 g (80%) of 4-(4-methylbenzyl)-1-(2-(4-benzyloxy-3-nitrophenoxy)ethyl)piperidine as yellow solid, mp. 176-7° C. 1H NMR (CDCl3) 1.25-1.39 (m, 2H), 1.46-1.54 (m, 1H), 1.60-1.66 (m, 2H), 2.00-2.07 (m, 2H), 2.320 (s, 3H), 2.500 (d, 2H, J=9), 2.754 (t, 2H, J=6), 2.93-2.97 (m, 2H), 4.068 (t, 2H, J=6), 5.179 (s, 2H), 7.02-7.10 (m, 4H), 7.33-7.46 (m, 3H).

reactant | 4-(4-methylbenzyl)piperidine | 30.36 mmol, 1.96 g | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
reactant | 2-(4-benzyloxy-3-nitrophenoxy)ethyl bromide | 5.18 mmol, 1.825 g | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)[N+](=O)[O-] | C15H14BrNO4
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-methylbenzyl)-1-(2-(4-benzyloxy-3-nitrophenoxy)ethyl)piperidine | 1.965 g, 80% | CC1=CC=C(CC2CCN(CC2)CCOC2=CC(=C(C=C2)OCC2=CC=CC=C2)[N+](=O)[O-])C=C1 | C28H32N2O4
